US04261885
(1) Preparation of Boc-Phe-Phe-OEt
In 150 ml of chloroform were dissolved 26.5 g of Boc-Phe-OH and 22.9 g of H-Phe-OEt.HCl, to which 18.4 ml of WSC was added under cooling at 0° C. This was then subjected to stirring for 2 hours at -10° C., then 15 hours at room temperature. The reaction solution was concentrated in vacuo and the residue was dissolved in 20 ml of ethyl acetate, washed successively with 1 N HCl, water, 5% aqueous NaHCO3 solution and water, dried over Na2SO4 then again concentrated in vacuo. The thus obtained residue was added to n-hexane and the resultant amorphous precipitate was collected, and was recrystallized from n-hexane, which gave 37 g (yield=84%) of the title product. m.p. 106.5°-107.5° C. [α]D25 -9.7° (C 1.3, DMF). Analysis--Calculated for C25H32O5N2 : C, 68.16; H, 7.32; N, 6.36. Found: C, 67.85; H, 7.32; N, 6.49.

reactant | Boc-Phe-OH | 26.5 g | N([C@@H](CC1=CC=CC=C1)C(=O)O)C(=O)OC(C)(C)C | C14H19NO4
reactant | H-Phe-OEt.HCl | 22.9 g | N[C@@H](CC1=CC=CC=C1)C(=O)OCC.Cl
reactant | WSC | 18.4 ml | CCN=C=NCCCN(C)C | C8H17N3
solvent | chloroform | 150 ml | C(Cl)(Cl)Cl | CHCl3
product | Boc-Phe-Phe-OEt | 37 g, yield=84% | N([C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)OCC)C(=O)OC(C)(C)C | C25H32N2O5
